US06927303B2
According to the similar procedure in Synthesis Example 14-4, by using 5-amino-2-propanoyloxybenzoic acid (0.32 g, 1.53 mmole) which was prepared from Synthesis Example (15-2), DMF (10 ml), TEA (0.05 ml), tetrabutyl ammonium iodide (3 mg), and 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide (0.38 ml, 2.30 mmole), 0.34 g (51.0% yield) of was obtained 2-propanoyloxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid as a white solid.

reactant | 5-amino-2-propanoyloxybenzoic acid | 1.53 mmole, 0.32 g | NC=1C=CC(=C(C(=O)O)C1)OC(CC)=O | C10H11NO4
reactant | 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide | 2.30 mmole, 0.38 ml | FC1=C(CBr)C(=C(C(=C1F)C(F)(F)F)F)F | C8H2BrF7
catalyst | tetrabutyl ammonium iodide | 3 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-propanoyloxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid | 51.0% yield | C(CC)(=O)OC1=C(C(=O)O)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C18H12F7NO4
